US09382424B2
Sodium hydride (60% in oil, 4.00 g, 100 mmol) was added in small portions within 1 hours to a solution of benzotriazole (14.3 g, 120 mmol) and 1-iodooctane (25 g, 104 mmol) in anhydrous dimethylformamide (100 mL) stirred under argon at room temperature. After the addition, stirring was continued for 3 days. The reaction mixture was poured into ice/water (100 mL), treated with 2 N NaOH (100 mL) and extracted with hexane/ethyl ether (1:1, 3×200 mL). The extract was washed with water (200 mL), dried over anhydrous sodium carbonate, and the solvent was removed under reduced pressure. The residue was chromatographed using silica gel (500 g) and hexane/dichloromethane (1:1) as an eluent. The first fraction gave 2-octyl-2H-benzo[d][1,2,3]triazole (8.16 g, 35% yield) as an oily product. 1H NMR (400 MHz, CDCl3): δ 7.85 (m, 2H, benzotriazole), 7.37 (m, 2H, benzotriazole), 4.71 (t, J=7.3 Hz, 2H, octyl), 2.10 (m, 2H, octyl), 1.32 (m, 4H, octyl), 1.23 (m, 6H, octyl), 0.85 (t, J=7.3 Hz, 3H, octyl).

reactant | Sodium hydride | 100 mmol, 4.00 g | [H-].[Na+]
reactant | benzotriazole | 120 mmol, 14.3 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | 1-iodooctane | 104 mmol, 25 g | ICCCCCCCC | C8H17I
reactant | NaOH | 2 N, 100 mL | [OH-].[Na+]
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 2-octyl-2H-benzo[d][1,2,3]triazole | 8.16 g, 35% yield | C(CCCCCCC)N1N=C2C(=N1)C=CC=C2 | C14H21N3
